US09120771B2
Synthesis of 3-((3,4-dichlorophenyl)(phenoxy)methyl)-1-methylazetidine (KHG26906)
Triethylamine (0.2 mL, 1.313 mmol) was added to 20 mL of 3-((3,4-dichlorophenyl)(phenoxy)methyl)azetidine hydrochloride (300 mg, 0.870 mmol) dissolved in a methanol solution, and the mixture was stirred at room temperature for 1 hour. 37% formaldehyde aqueous solution (0.3 ml, 3.50 mmol) and acetic acid (0.2 ml, 3.50 mmol) were added to the reaction mixture, and NaBH(OAc)3 (742 mg, 3.50 mmol) was added thereto, followed by stirring for one day. Thereafter, 1 mL of 1 N NaOH was added thereto, and the mixture was stirred for 30 minutes. The organic layer was washed with distilled water, and the organic layer was adjusted to pH 7 using a 1 N NaOH aqueous solution, and extracted with methylene chloride (3*30 mL) and dried over anhydrous magnesium sulfate. The solvent was removed by reduced pressure evaporation to obtain a colorless liquid, which was purified by flash chromatography (methylene chloride:methanol (9:1, v/v)). The product was identified as a single compound by TLC (methylene chloride:methanol (9:1, v/v)).

reactant | Triethylamine | 1.313 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | 3-((3,4-dichlorophenyl)(phenoxy)methyl)azetidine hydrochloride | 0.870 mmol, 20 mL, 300 mg | Cl.ClC=1C=C(C=CC1Cl)C(C1CNC1)OC1=CC=CC=C1
reactant | formaldehyde | 3.50 mmol, 0.3 ml | C=O | CH2O
reactant | acetic acid | 3.50 mmol, 0.2 ml | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 3.50 mmol, 742 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 1 N, 1 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-((3,4-dichlorophenyl)(phenoxy)methyl)-1-methylazetidine | ClC=1C=C(C=CC1Cl)C(C1CN(C1)C)OC1=CC=CC=C1 | C17H17Cl2NO
